US04119629
Synthesis of 1,2-bis(thiophenyl)-4-nitrobenzene (2c)
The procedure was as previously mentioned using 1-nitro-3,4-dichlorobenzene (10 g, 0.052 M) and sodium thiophenoxide (13.75 g, 0.104 M). mp = 97°-101°. Yield 31%. The reaction product was characterized by NMR, 13CNMR, ir, and Mass Spectra (M+ = 339).

reactant | 1-nitro-3,4-dichlorobenzene | 0.052 M, 10 g | [N+](=O)([O-])C1=CC(=C(C=C1)Cl)Cl | C6H3Cl2NO2
reactant | sodium thiophenoxide | 0.104 M, 13.75 g | [S-]C1=CC=CC=C1.[Na+]
product | 1,2-bis(thiophenyl)-4-nitrobenzene | Yield 31% | S1C(=CC=C1)C1=C(C=C(C=C1)[N+](=O)[O-])C=1SC=CC1 | C14H9NO2S2
